US06245778B1
6-Methyl-3-nitro-5,6,7,8-tetrahydro[1,6]naphthyridine
3,5-Dinitro-1-methyl-2-pyridone (5.97 g; 30 mmol) was treated with 1.22M ammonia in methanol (300 ml) then 1-methyl-4-piperidone (3.73 g, 33 mmol) and the mixture heated at 60° for 5 h, then allowed to stand at ambient temp for 72 h. Evaporation in vacuo gave an orange/red residue which was triturated in dichloromethane and diethyl ether, collected by filtration, washed with diethyl ether and dried in air. Chromatography through silica gel, eluting with ethyl acetate, gave the title compound as a red solid (3.4 g, 59%).

reactant | 3,5-Dinitro-1-methyl-2-pyridone | 30 mmol, 5.97 g | [N+](=O)([O-])C=1C(N(C=C(C1)[N+](=O)[O-])C)=O | C6H5N3O5
reactant | ammonia | 1.22M | N | H3N
reactant | 1-methyl-4-piperidone | 33 mmol, 3.73 g | CN1CCC(CC1)=O | C6H11NO
solvent | methanol | 300 ml | CO | CH4O
product | 6-Methyl-3-nitro-5,6,7,8-tetrahydro[1,6]naphthyridine | 3.4 g, 59% | CN1CC=2C=C(C=NC2CC1)[N+](=O)[O-] | C9H11N3O2
